************************************************************************
* auCdl Netlist:
* 
* Library Name:  adc_sar_generated
* Top Cell Name: sarafe_nsw
* View Name:     schematic
* Netlisted on:  Jun 13 15:07:50 2017
************************************************************************

.INCLUDE  /tools/designs/zhongkai/tsmc16/others/test/BAG2_cds_ff_mpt/cds_ff_mpt/calibre_rcx_setup/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    momcap_center_1x
* View Name:    schematic
************************************************************************

.SUBCKT momcap_center_1x BOTTOM TOP
*.PININFO BOTTOM:B TOP:B
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    capdac
* View Name:    schematic
************************************************************************

.SUBCKT capdac I<7> I<6> I<5> I<4> I<3> I<2> I<1> I<0> I_C0 O
*.PININFO I<7>:I I<6>:I I<5>:I I<4>:I I<3>:I I<2>:I I<1>:I I<0>:I I_C0:I O:B
XI7<99> I<7> O / momcap_center_1x
XI7<98> I<7> O / momcap_center_1x
XI7<97> I<7> O / momcap_center_1x
XI7<96> I<7> O / momcap_center_1x
XI7<95> I<7> O / momcap_center_1x
XI7<94> I<7> O / momcap_center_1x
XI7<93> I<7> O / momcap_center_1x
XI7<92> I<7> O / momcap_center_1x
XI7<91> I<7> O / momcap_center_1x
XI7<90> I<7> O / momcap_center_1x
XI7<89> I<7> O / momcap_center_1x
XI7<88> I<7> O / momcap_center_1x
XI7<87> I<7> O / momcap_center_1x
XI7<86> I<7> O / momcap_center_1x
XI7<85> I<7> O / momcap_center_1x
XI7<84> I<7> O / momcap_center_1x
XI7<83> I<7> O / momcap_center_1x
XI7<82> I<7> O / momcap_center_1x
XI7<81> I<7> O / momcap_center_1x
XI7<80> I<7> O / momcap_center_1x
XI7<79> I<7> O / momcap_center_1x
XI7<78> I<7> O / momcap_center_1x
XI7<77> I<7> O / momcap_center_1x
XI7<76> I<7> O / momcap_center_1x
XI7<75> I<7> O / momcap_center_1x
XI7<74> I<7> O / momcap_center_1x
XI7<73> I<7> O / momcap_center_1x
XI7<72> I<7> O / momcap_center_1x
XI7<71> I<7> O / momcap_center_1x
XI7<70> I<7> O / momcap_center_1x
XI7<69> I<7> O / momcap_center_1x
XI7<68> I<7> O / momcap_center_1x
XI7<67> I<7> O / momcap_center_1x
XI7<66> I<7> O / momcap_center_1x
XI7<65> I<7> O / momcap_center_1x
XI7<64> I<7> O / momcap_center_1x
XI7<63> I<7> O / momcap_center_1x
XI7<62> I<7> O / momcap_center_1x
XI7<61> I<7> O / momcap_center_1x
XI7<60> I<7> O / momcap_center_1x
XI7<59> I<7> O / momcap_center_1x
XI7<58> I<7> O / momcap_center_1x
XI7<57> I<7> O / momcap_center_1x
XI7<56> I<7> O / momcap_center_1x
XI7<55> I<7> O / momcap_center_1x
XI7<54> I<7> O / momcap_center_1x
XI7<53> I<7> O / momcap_center_1x
XI7<52> I<7> O / momcap_center_1x
XI7<51> I<7> O / momcap_center_1x
XI7<50> I<7> O / momcap_center_1x
XI7<49> I<7> O / momcap_center_1x
XI7<48> I<7> O / momcap_center_1x
XI7<47> I<7> O / momcap_center_1x
XI7<46> I<7> O / momcap_center_1x
XI7<45> I<7> O / momcap_center_1x
XI7<44> I<7> O / momcap_center_1x
XI7<43> I<7> O / momcap_center_1x
XI7<42> I<7> O / momcap_center_1x
XI7<41> I<7> O / momcap_center_1x
XI7<40> I<7> O / momcap_center_1x
XI7<39> I<7> O / momcap_center_1x
XI7<38> I<7> O / momcap_center_1x
XI7<37> I<7> O / momcap_center_1x
XI7<36> I<7> O / momcap_center_1x
XI7<35> I<7> O / momcap_center_1x
XI7<34> I<7> O / momcap_center_1x
XI7<33> I<7> O / momcap_center_1x
XI7<32> I<7> O / momcap_center_1x
XI7<31> I<7> O / momcap_center_1x
XI7<30> I<7> O / momcap_center_1x
XI7<29> I<7> O / momcap_center_1x
XI7<28> I<7> O / momcap_center_1x
XI7<27> I<7> O / momcap_center_1x
XI7<26> I<7> O / momcap_center_1x
XI7<25> I<7> O / momcap_center_1x
XI7<24> I<7> O / momcap_center_1x
XI7<23> I<7> O / momcap_center_1x
XI7<22> I<7> O / momcap_center_1x
XI7<21> I<7> O / momcap_center_1x
XI7<20> I<7> O / momcap_center_1x
XI7<19> I<7> O / momcap_center_1x
XI7<18> I<7> O / momcap_center_1x
XI7<17> I<7> O / momcap_center_1x
XI7<16> I<7> O / momcap_center_1x
XI7<15> I<7> O / momcap_center_1x
XI7<14> I<7> O / momcap_center_1x
XI7<13> I<7> O / momcap_center_1x
XI7<12> I<7> O / momcap_center_1x
XI7<11> I<7> O / momcap_center_1x
XI7<10> I<7> O / momcap_center_1x
XI7<9> I<7> O / momcap_center_1x
XI7<8> I<7> O / momcap_center_1x
XI7<7> I<7> O / momcap_center_1x
XI7<6> I<7> O / momcap_center_1x
XI7<5> I<7> O / momcap_center_1x
XI7<4> I<7> O / momcap_center_1x
XI7<3> I<7> O / momcap_center_1x
XI7<2> I<7> O / momcap_center_1x
XI7<1> I<7> O / momcap_center_1x
XI7<0> I<7> O / momcap_center_1x
XI6<52> I<6> O / momcap_center_1x
XI6<51> I<6> O / momcap_center_1x
XI6<50> I<6> O / momcap_center_1x
XI6<49> I<6> O / momcap_center_1x
XI6<48> I<6> O / momcap_center_1x
XI6<47> I<6> O / momcap_center_1x
XI6<46> I<6> O / momcap_center_1x
XI6<45> I<6> O / momcap_center_1x
XI6<44> I<6> O / momcap_center_1x
XI6<43> I<6> O / momcap_center_1x
XI6<42> I<6> O / momcap_center_1x
XI6<41> I<6> O / momcap_center_1x
XI6<40> I<6> O / momcap_center_1x
XI6<39> I<6> O / momcap_center_1x
XI6<38> I<6> O / momcap_center_1x
XI6<37> I<6> O / momcap_center_1x
XI6<36> I<6> O / momcap_center_1x
XI6<35> I<6> O / momcap_center_1x
XI6<34> I<6> O / momcap_center_1x
XI6<33> I<6> O / momcap_center_1x
XI6<32> I<6> O / momcap_center_1x
XI6<31> I<6> O / momcap_center_1x
XI6<30> I<6> O / momcap_center_1x
XI6<29> I<6> O / momcap_center_1x
XI6<28> I<6> O / momcap_center_1x
XI6<27> I<6> O / momcap_center_1x
XI6<26> I<6> O / momcap_center_1x
XI6<25> I<6> O / momcap_center_1x
XI6<24> I<6> O / momcap_center_1x
XI6<23> I<6> O / momcap_center_1x
XI6<22> I<6> O / momcap_center_1x
XI6<21> I<6> O / momcap_center_1x
XI6<20> I<6> O / momcap_center_1x
XI6<19> I<6> O / momcap_center_1x
XI6<18> I<6> O / momcap_center_1x
XI6<17> I<6> O / momcap_center_1x
XI6<16> I<6> O / momcap_center_1x
XI6<15> I<6> O / momcap_center_1x
XI6<14> I<6> O / momcap_center_1x
XI6<13> I<6> O / momcap_center_1x
XI6<12> I<6> O / momcap_center_1x
XI6<11> I<6> O / momcap_center_1x
XI6<10> I<6> O / momcap_center_1x
XI6<9> I<6> O / momcap_center_1x
XI6<8> I<6> O / momcap_center_1x
XI6<7> I<6> O / momcap_center_1x
XI6<6> I<6> O / momcap_center_1x
XI6<5> I<6> O / momcap_center_1x
XI6<4> I<6> O / momcap_center_1x
XI6<3> I<6> O / momcap_center_1x
XI6<2> I<6> O / momcap_center_1x
XI6<1> I<6> O / momcap_center_1x
XI6<0> I<6> O / momcap_center_1x
XI5<27> I<5> O / momcap_center_1x
XI5<26> I<5> O / momcap_center_1x
XI5<25> I<5> O / momcap_center_1x
XI5<24> I<5> O / momcap_center_1x
XI5<23> I<5> O / momcap_center_1x
XI5<22> I<5> O / momcap_center_1x
XI5<21> I<5> O / momcap_center_1x
XI5<20> I<5> O / momcap_center_1x
XI5<19> I<5> O / momcap_center_1x
XI5<18> I<5> O / momcap_center_1x
XI5<17> I<5> O / momcap_center_1x
XI5<16> I<5> O / momcap_center_1x
XI5<15> I<5> O / momcap_center_1x
XI5<14> I<5> O / momcap_center_1x
XI5<13> I<5> O / momcap_center_1x
XI5<12> I<5> O / momcap_center_1x
XI5<11> I<5> O / momcap_center_1x
XI5<10> I<5> O / momcap_center_1x
XI5<9> I<5> O / momcap_center_1x
XI5<8> I<5> O / momcap_center_1x
XI5<7> I<5> O / momcap_center_1x
XI5<6> I<5> O / momcap_center_1x
XI5<5> I<5> O / momcap_center_1x
XI5<4> I<5> O / momcap_center_1x
XI5<3> I<5> O / momcap_center_1x
XI5<2> I<5> O / momcap_center_1x
XI5<1> I<5> O / momcap_center_1x
XI5<0> I<5> O / momcap_center_1x
XI4<15> I<4> O / momcap_center_1x
XI4<14> I<4> O / momcap_center_1x
XI4<13> I<4> O / momcap_center_1x
XI4<12> I<4> O / momcap_center_1x
XI4<11> I<4> O / momcap_center_1x
XI4<10> I<4> O / momcap_center_1x
XI4<9> I<4> O / momcap_center_1x
XI4<8> I<4> O / momcap_center_1x
XI4<7> I<4> O / momcap_center_1x
XI4<6> I<4> O / momcap_center_1x
XI4<5> I<4> O / momcap_center_1x
XI4<4> I<4> O / momcap_center_1x
XI4<3> I<4> O / momcap_center_1x
XI4<2> I<4> O / momcap_center_1x
XI4<1> I<4> O / momcap_center_1x
XI4<0> I<4> O / momcap_center_1x
XI3<7> I<3> O / momcap_center_1x
XI3<6> I<3> O / momcap_center_1x
XI3<5> I<3> O / momcap_center_1x
XI3<4> I<3> O / momcap_center_1x
XI3<3> I<3> O / momcap_center_1x
XI3<2> I<3> O / momcap_center_1x
XI3<1> I<3> O / momcap_center_1x
XI3<0> I<3> O / momcap_center_1x
XI2<3> I<2> O / momcap_center_1x
XI2<2> I<2> O / momcap_center_1x
XI2<1> I<2> O / momcap_center_1x
XI2<0> I<2> O / momcap_center_1x
XI1<1> I<1> O / momcap_center_1x
XI1<0> I<1> O / momcap_center_1x
XIC0_0 I_C0 O / momcap_center_1x
XI0 I<0> O / momcap_center_1x
.ENDS

************************************************************************
* Library Name: BAG_prim
* Cell Name:    nmos4_fast
* View Name:    schematic
************************************************************************

.SUBCKT nmos4_fast B D G S
*.PININFO B:B D:B G:B S:B
MM0 D G S B n1lvt m=1 l=l nfin=w nf=nf
.ENDS

************************************************************************
* Library Name: BAG_prim
* Cell Name:    pmos4_fast
* View Name:    schematic
************************************************************************

.SUBCKT pmos4_fast B D G S
*.PININFO B:B D:B G:B S:B
MM0 D G S B p1lvt m=1 l=l nfin=w nf=nf
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    salatch_pmos
* View Name:    schematic
************************************************************************

.SUBCKT salatch_pmos CLKB INM INP INTM INTP OSM OSP OUTM OUTP VDD VSS
*.PININFO CLKB:I INM:I INP:I OSM:I OSP:I INTM:O INTP:O OUTM:O OUTP:O VDD:B 
*.PININFO VSS:B
XIRGNNDM1 VSS OP OM VSS / nmos4_fast nf=2 w=4 l=16n
XIBUFN0 VSS OUTP OM VSS / nmos4_fast nf=8 w=4 l=16n
XIBUFN1 VSS OUTM OP VSS / nmos4_fast nf=8 w=4 l=16n
XIRST1 VSS INTP CLKB VSS / nmos4_fast nf=6 w=4 l=16n
XIRST3 VSS OP CLKB VSS / nmos4_fast nf=6 w=4 l=16n
XIRST0 VSS INTM CLKB VSS / nmos4_fast nf=6 w=4 l=16n
XIRST2 VSS OM CLKB VSS / nmos4_fast nf=6 w=4 l=16n
XIRGNNDM0 VSS OM OP VSS / nmos4_fast nf=2 w=4 l=16n
XIRGNN0 VSS OM OP VSS / nmos4_fast nf=8 w=4 l=16n
XIRGNN1 VSS OP OM VSS / nmos4_fast nf=8 w=4 l=16n
XIBUFP0 VDD OUTP OM VDD / pmos4_fast nf=8 w=4 l=16n
XIBUFP1 VDD OUTM OP VDD / pmos4_fast nf=8 w=4 l=16n
XIRGNPDM2 VDD INTP VDD VDD / pmos4_fast nf=2 w=4 l=16n
XIRGNPDM1 VDD INTM VDD VDD / pmos4_fast nf=2 w=4 l=16n
XIRGNPDM0 VDD VDD VDD VDD / pmos4_fast nf=4 w=4 l=16n
XIRGNP1 VDD OP OM INTP / pmos4_fast nf=18 w=4 l=16n
XIRGNP0 VDD OM OP INTM / pmos4_fast nf=18 w=4 l=16n
XIOSM0 VDD INTP OSM TAIL / pmos4_fast nf=2 w=4 l=16n
XIOSP0 VDD INTM OSP TAIL / pmos4_fast nf=2 w=4 l=16n
XIOSPB0 VDD VDD OSP VDD / pmos4_fast nf=12 w=4 l=16n
XIOSMB0 VDD VDD OSM VDD / pmos4_fast nf=12 w=4 l=16n
XIINDM1 VDD VDD VDD TAIL / pmos4_fast nf=2 w=4 l=16n
XIINDM0 VDD VDD VDD VDD / pmos4_fast nf=6 w=4 l=16n
XICKPDM0 VDD VDD VDD VDD / pmos4_fast nf=40 w=4 l=16n
XICKP0 VDD TAIL CLKB VDD / pmos4_fast nf=20 w=4 l=16n
XIINM0 VDD INTP INM TAIL / pmos4_fast nf=12 w=4 l=16n
XIINP0 VDD INTM INP TAIL / pmos4_fast nf=12 w=4 l=16n
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    nsw_wovdd
* View Name:    schematic
************************************************************************

.SUBCKT nsw_wovdd EN I O VSS
*.PININFO EN:I I:B O:B VSS:B
XIN1 VSS I EN O / nmos4_fast nf=2 w=4 l=16n
XIN0 VSS I EN O / nmos4_fast nf=2 w=4 l=16n
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    tie_wovdd
* View Name:    schematic
************************************************************************

.SUBCKT tie_wovdd VSS
*.PININFO VSS:B
XIN1 VSS net5 net5 VSS / nmos4_fast nf=2 w=4 l=16n
XIN0 VSS net6 net6 VSS / nmos4_fast nf=2 w=4 l=16n
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    capdrv_nsw
* View Name:    schematic
************************************************************************

.SUBCKT capdrv_nsw EN<2> EN<1> EN<0> VO VREF<2> VREF<1> VREF<0> VSS
*.PININFO EN<2>:I EN<1>:I EN<0>:I VREF<2>:I VREF<1>:I VREF<0>:I VO:O VSS:B
XISW0 EN<2> VREF<2> VO VSS / nsw_wovdd
XISW1 EN<1> VREF<1> VO VSS / nsw_wovdd
XISW2 EN<0> VREF<0> VO VSS / nsw_wovdd
XITIE0 VSS / tie_wovdd
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0
* View Name:    schematic
************************************************************************

.SUBCKT nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0 EN I O VSS
*.PININFO EN:I I:B O:B VSS:B
XIN1 VSS I EN O / nmos4_fast nf=4 w=4 l=16n
XIN0 VSS I EN O / nmos4_fast nf=4 w=4 l=16n
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    capdrv_nsw_XTOP_ICDRVM0_ICDRV0
* View Name:    schematic
************************************************************************

.SUBCKT capdrv_nsw_XTOP_ICDRVM0_ICDRV0 EN<2> EN<1> EN<0> VO VREF<2> VREF<1> 
+ VREF<0> VSS
*.PININFO EN<2>:I EN<1>:I EN<0>:I VREF<2>:I VREF<1>:I VREF<0>:I VO:O VSS:B
XISW0 EN<2> VREF<2> VO VSS / nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0
XISW1 EN<1> VREF<1> VO VSS / nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0
XISW2 EN<0> VREF<0> VO VSS / nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0
XITIE0 VSS / tie_wovdd
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0_1
* View Name:    schematic
************************************************************************

.SUBCKT nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0_1 EN I O VSS
*.PININFO EN:I I:B O:B VSS:B
XIN1 VSS I EN O / nmos4_fast nf=8 w=4 l=16n
XIN0 VSS I EN O / nmos4_fast nf=8 w=4 l=16n
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    capdrv_nsw_XTOP_ICDRVM0_ICDRV0_1
* View Name:    schematic
************************************************************************

.SUBCKT capdrv_nsw_XTOP_ICDRVM0_ICDRV0_1 EN<2> EN<1> EN<0> VO VREF<2> VREF<1> 
+ VREF<0> VSS
*.PININFO EN<2>:I EN<1>:I EN<0>:I VREF<2>:I VREF<1>:I VREF<0>:I VO:O VSS:B
XISW0 EN<2> VREF<2> VO VSS / nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0_1
XISW1 EN<1> VREF<1> VO VSS / nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0_1
XISW2 EN<0> VREF<0> VO VSS / nsw_wovdd_XTOP_ICDRVM0_ICDRV0_ISW0_1
XITIE0 VSS / tie_wovdd
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    capdrv_nsw_array
* View Name:    schematic
************************************************************************

.SUBCKT capdrv_nsw_array EN0<2> EN0<1> EN0<0> EN1<2> EN1<1> EN1<0> EN2<2> 
+ EN2<1> EN2<0> EN3<2> EN3<1> EN3<0> EN4<2> EN4<1> EN4<0> EN5<2> EN5<1> EN5<0> 
+ EN6<2> EN6<1> EN6<0> EN7<2> EN7<1> EN7<0> VO<7> VO<6> VO<5> VO<4> VO<3> 
+ VO<2> VO<1> VO<0> VREF<2> VREF<1> VREF<0> VSS
*.PININFO EN0<2>:I EN0<1>:I EN0<0>:I EN1<2>:I EN1<1>:I EN1<0>:I EN2<2>:I 
*.PININFO EN2<1>:I EN2<0>:I EN3<2>:I EN3<1>:I EN3<0>:I EN4<2>:I EN4<1>:I 
*.PININFO EN4<0>:I EN5<2>:I EN5<1>:I EN5<0>:I EN6<2>:I EN6<1>:I EN6<0>:I 
*.PININFO EN7<2>:I EN7<1>:I EN7<0>:I VO<7>:B VO<6>:B VO<5>:B VO<4>:B VO<3>:B 
*.PININFO VO<2>:B VO<1>:B VO<0>:B VREF<2>:B VREF<1>:B VREF<0>:B VSS:B
XICDRV3 EN3<2> EN3<1> EN3<0> VO<3> VREF<2> VREF<1> VREF<0> VSS / capdrv_nsw
XICDRV0 EN0<2> EN0<1> EN0<0> VO<0> VREF<2> VREF<1> VREF<0> VSS / capdrv_nsw
XICDRV2 EN2<2> EN2<1> EN2<0> VO<2> VREF<2> VREF<1> VREF<0> VSS / capdrv_nsw
XICDRV1 EN1<2> EN1<1> EN1<0> VO<1> VREF<2> VREF<1> VREF<0> VSS / capdrv_nsw
XICDRV4 EN4<2> EN4<1> EN4<0> VO<4> VREF<2> VREF<1> VREF<0> VSS / capdrv_nsw
XICDRV5 EN5<2> EN5<1> EN5<0> VO<5> VREF<2> VREF<1> VREF<0> VSS / capdrv_nsw
XICDRV6 EN6<2> EN6<1> EN6<0> VO<6> VREF<2> VREF<1> VREF<0> VSS / 
+ capdrv_nsw_XTOP_ICDRVM0_ICDRV0
XICDRV7 EN7<2> EN7<1> EN7<0> VO<7> VREF<2> VREF<1> VREF<0> VSS / 
+ capdrv_nsw_XTOP_ICDRVM0_ICDRV0_1
.ENDS

************************************************************************
* Library Name: adc_sar_generated
* Cell Name:    sarafe_nsw
* View Name:    schematic
************************************************************************

.SUBCKT sarafe_nsw CLKB ENL0<2> ENL0<1> ENL0<0> ENL1<2> ENL1<1> ENL1<0> 
+ ENL2<2> ENL2<1> ENL2<0> ENL3<2> ENL3<1> ENL3<0> ENL4<2> ENL4<1> ENL4<0> 
+ ENL5<2> ENL5<1> ENL5<0> ENL6<2> ENL6<1> ENL6<0> ENL7<2> ENL7<1> ENL7<0> 
+ ENR0<2> ENR0<1> ENR0<0> ENR1<2> ENR1<1> ENR1<0> ENR2<2> ENR2<1> ENR2<0> 
+ ENR3<2> ENR3<1> ENR3<0> ENR4<2> ENR4<1> ENR4<0> ENR5<2> ENR5<1> ENR5<0> 
+ ENR6<2> ENR6<1> ENR6<0> ENR7<2> ENR7<1> ENR7<0> INM INP OSM OSP OUTM OUTP 
+ VDD VOL<7> VOL<6> VOL<5> VOL<4> VOL<3> VOL<2> VOL<1> VOL<0> VOR<7> VOR<6> 
+ VOR<5> VOR<4> VOR<3> VOR<2> VOR<1> VOR<0> VREF<2> VREF<1> VREF<0> VSS
*.PININFO CLKB:I ENL0<2>:I ENL0<1>:I ENL0<0>:I ENL1<2>:I ENL1<1>:I ENL1<0>:I 
*.PININFO ENL2<2>:I ENL2<1>:I ENL2<0>:I ENL3<2>:I ENL3<1>:I ENL3<0>:I 
*.PININFO ENL4<2>:I ENL4<1>:I ENL4<0>:I ENL5<2>:I ENL5<1>:I ENL5<0>:I 
*.PININFO ENL6<2>:I ENL6<1>:I ENL6<0>:I ENL7<2>:I ENL7<1>:I ENL7<0>:I 
*.PININFO ENR0<2>:I ENR0<1>:I ENR0<0>:I ENR1<2>:I ENR1<1>:I ENR1<0>:I 
*.PININFO ENR2<2>:I ENR2<1>:I ENR2<0>:I ENR3<2>:I ENR3<1>:I ENR3<0>:I 
*.PININFO ENR4<2>:I ENR4<1>:I ENR4<0>:I ENR5<2>:I ENR5<1>:I ENR5<0>:I 
*.PININFO ENR6<2>:I ENR6<1>:I ENR6<0>:I ENR7<2>:I ENR7<1>:I ENR7<0>:I INM:I 
*.PININFO INP:I OSM:I OSP:I VREF<2>:I VREF<1>:I VREF<0>:I OUTM:O OUTP:O 
*.PININFO VOL<7>:O VOL<6>:O VOL<5>:O VOL<4>:O VOL<3>:O VOL<2>:O VOL<1>:O 
*.PININFO VOL<0>:O VOR<7>:O VOR<6>:O VOR<5>:O VOR<4>:O VOR<3>:O VOR<2>:O 
*.PININFO VOR<1>:O VOR<0>:O VDD:B VSS:B
XICAPM0 VOR<7> VOR<6> VOR<5> VOR<4> VOR<3> VOR<2> VOR<1> VOR<0> VREF<1> INM / 
+ capdac
XICAPP0 VOL<7> VOL<6> VOL<5> VOL<4> VOL<3> VOL<2> VOL<1> VOL<0> VREF<1> INP / 
+ capdac
XISA0 CLKB INM INP INTM INTP OSM OSP OUTM OUTP VDD VSS / salatch_pmos
XICDRVM0 ENR0<2> ENR0<1> ENR0<0> ENR1<2> ENR1<1> ENR1<0> ENR2<2> ENR2<1> 
+ ENR2<0> ENR3<2> ENR3<1> ENR3<0> ENR4<2> ENR4<1> ENR4<0> ENR5<2> ENR5<1> 
+ ENR5<0> ENR6<2> ENR6<1> ENR6<0> ENR7<2> ENR7<1> ENR7<0> VOR<7> VOR<6> VOR<5> 
+ VOR<4> VOR<3> VOR<2> VOR<1> VOR<0> VREF<2> VREF<1> VREF<0> VSS / 
+ capdrv_nsw_array
XICDRVP0 ENL0<2> ENL0<1> ENL0<0> ENL1<2> ENL1<1> ENL1<0> ENL2<2> ENL2<1> 
+ ENL2<0> ENL3<2> ENL3<1> ENL3<0> ENL4<2> ENL4<1> ENL4<0> ENL5<2> ENL5<1> 
+ ENL5<0> ENL6<2> ENL6<1> ENL6<0> ENL7<2> ENL7<1> ENL7<0> VOL<7> VOL<6> VOL<5> 
+ VOL<4> VOL<3> VOL<2> VOL<1> VOL<0> VREF<2> VREF<1> VREF<0> VSS / 
+ capdrv_nsw_array
.ENDS

